US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and 1-bromononane (0.050 mL, 0.262 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0652 g, 78.6%). EI-MS m/z 429 (M+) Rt (2.55 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 1-bromononane | 0.262 mmol, 0.050 mL | BrCCCCCCCCC | C9H19Br
product | 4-[cyano(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.2]octane bromide | 0.0652 g, 78.6% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCCCCCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H41N2.BrH/c1-2-3-4-5-6-7-14-22-32-23-19-29(20-24-32,21-25-32)30(26-31,27-15-10-8-11-16-27)28-17-12-9-13-18-28;/h8-13,15-18H,2-7,14,19-25H2,1H3;1H/q+1;/p-1
